US06777432B1
6-chloro-N-(4-fluoro-phenyl)-nicotinamide
To a suspension of 6-chloronicotinoyl chloride (10.5 g, 59.7 mmole) in dry dichloromethane (100 mL) was added 4-fluoroaniline (5.6 mL, 59.7 mmole), followed by the dropwise addition of N,N-diisopropylethylamine (21 mL, 19 mmol).

reactant | 6-chloronicotinoyl chloride | 59.7 mmole, 10.5 g | ClC1=NC=C(C(=O)Cl)C=C1 | C6H3Cl2NO
reactant | 4-fluoroaniline | 59.7 mmole, 5.6 mL | FC1=CC=C(N)C=C1 | C6H6FN
reactant | N,N-diisopropylethylamine | 19 mmol, 21 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 6-chloro-N-(4-fluoro-phenyl)-nicotinamide | ClC1=NC=C(C(=O)NC2=CC=C(C=C2)F)C=C1 | C12H8ClFN2O
